US06034099
From the reaction of 4-hydrazinobenzoic acid and ethylacetoacetate, 4-(4,5-dihydro-5-oxo-3-methyl-1H-pyrazol-1-yl)-benzoic acid is obtained. Subsequent reaction with 2-ethylaniline yeilds 4-(4-(2-ethylanilinomethylene)-4,5-dihydro-5-oxo-3-methyl-1H-pyrazol-1-yl)-benzoic acid, Mp 291° C.

reactant | 4-hydrazinobenzoic acid | N(N)C1=CC=C(C(=O)O)C=C1 | C7H8N2O2
reactant | ethylacetoacetate | C(C)OC(CC(=O)C)=O | C6H10O3
product | 4-(4,5-dihydro-5-oxo-3-methyl-1H-pyrazol-1-yl)-benzoic acid | O=C1CC(=NN1C1=CC=C(C(=O)O)C=C1)C | C11H10N2O3
